US07220856B2
Preparation of 7-Chloro-4-[4-(phenylpropylaminocarbonyl)piperazin-1-yl]quinoline
3-Phenyl-1-propylamine (71 μL, 0.5 mmol), 4-nitrophenyl chloroformate (101 mg, 0.5 mmol), triethylamine (154 μL, 1.1 mmol), and 7-chloro-4-(piperazin-1-yl)quinoline (124 mg, 0.5 mmol) are treated according to method D delivering the title product as a colorless oil after column chromatography with hexane-EtOAc.

reactant | 3-Phenyl-1-propylamine | 0.5 mmol, 71 μL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 4-nitrophenyl chloroformate | 0.5 mmol, 101 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 1.1 mmol, 154 μL | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.5 mmol, 124 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | 7-Chloro-4-[4-(phenylpropylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NCCCC1=CC=CC=C1 | C23H25ClN4O
